US08541589B2
A mixture of methyl 2-(3-(4-cyanonaphthalen-1-yl)pyrazin-2-ylthio)acetate (0.125 g, 0.37 mmol), aqueous sodium hydroxide solution (1M, 0.5 mL) and methanol (1 mL) was stirred at room temperature for 12 hours. Methanol was removed and the mixture washed with water and extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated to dryness. Solid residue was recrystallized from ethyl acetate and hexanes to yield 2-(3-(4-cyanonaphthalen-1-yl)pyrazin-2-ylthio)acetic acid (0.102 g, 86%).

reactant | methyl 2-(3-(4-cyanonaphthalen-1-yl)pyrazin-2-ylthio)acetate | 0.37 mmol, 0.125 g | C(#N)C1=CC=C(C2=CC=CC=C12)C=1C(=NC=CN1)SCC(=O)OC | C18H13N3O2S
reactant | sodium hydroxide | 1M, 0.5 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 2-(3-(4-cyanonaphthalen-1-yl)pyrazin-2-ylthio)acetic acid | 0.102 g, 86% | C(#N)C1=CC=C(C2=CC=CC=C12)C=1C(=NC=CN1)SCC(=O)O | C17H11N3O2S
